US04411987
590 g (5 mols) of 4,5-dihydroxy-2-imidazolidinone and 300 g (5 mols) of urea were dissolved in 1 liter of water. 30 ml of concentrated hydrochloric acid was added to the solution and the mixture was stirred at 90° C. for 1 hour. After cooling, the crystals thus precipitated were collected by filtration, washed with water and dried to obtain 526 g (yield: 74%) of glycoluril. The melting point of glycoluril was above 300° C.

reactant | 4,5-dihydroxy-2-imidazolidinone | 5 mols, 590 g | OC1NC(NC1O)=O | C3H6N2O3
reactant | urea | 5 mols, 300 g | NC(=O)N | CH4N2O
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | water | 1 liter | O | H2O
product | glycoluril | 526 g, yield: 74% | C12C(NC(=O)N1)NC(=O)N2 | C4H6N4O2
